US06525042B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride
In dichloromethane (10 ml), 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride (400 mg) was suspended, followed by the addition of triethylamine (0.22 ml) and acetic acid (0.05 ml). The resulting mixture was stirred at room temperature for 5 minutes. To the reaction mixture, a 30% aqueous formaldehyde solution (0.08 ml) and sodium triacetoxyborohydride (264 mg) were added, followed by stirring at room temperature for 10 minutes. After the reaction mixture was concentrated under reduced pressure, the residue was added with ethyl acetate. The resulting mixture was washed with water and saturated saline and then dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure The residue was dissolved in a saturated ethanol hydrochloride solution (1 ml) and then the resulting solution was concentrated under reduced pressure. The residue was crystallized from hexane and ethyl acetate, whereby the title compound (298 mg, 71%) was obtained.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | 400 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNCCC2N1
reactant | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | formaldehyde | 0.08 ml | C=O | CH2O
reactant | sodium triacetoxyborohydride | 264 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNC(CC2N1)C | InChI=1S/C22H23ClN4O3S2.ClH/c1-14-10-19-20(13-24-14)31-21(25-19)22(28)26-6-8-27(9-7-26)32(29,30)18-5-3-15-11-17(23)4-2-16(15)12-18;/h2-5,11-12,14,24H,6-10,13H2,1H3;1H
